US04168269
7-Amino-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
A 7.8 g. portion of 4,9-dihydro-7-nitro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in a mixture of 200 ml. of pyridine and 50 ml. of methanol with 200 mg. of 10% palladium on carbon catalyst was shaken for 2 hours in a Parr hydrogenator. The catalyst was filtered and the solvents were removed under vacuum on the steam bath. The residue was dissolved in dilute hydrochloric acid, filtered, and the filtrate was made alkaline with sodium hydroxide. The crystals which form are recovered by filtration and air dried given the desired product as a brown powder, m.p. 212°-215° C.

reactant | 4,9-dihydro-7-nitro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | [N+](=O)([O-])C=1C=CC2=C(NC(C=3C(N2)=CSC3)=O)C1 | C11H7N3O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 7-Amino-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | NC=1C=CC2=C(NC(C=3C(N2)=CSC3)=O)C1 | C11H9N3OS
